US04614819
In 40 ml of anhydrous methylene chloride was dissolved 8.4 g of diketene, and the resulting solution was cooled to -40° C. Then, 14.4 g of bromine was added dropwise to the solution while maintaining the temperature at -40° to -35° C. over a period of 1 hour, and the resulting mixture was subjected to reaction at -30° to -20° C. for 30 minutes. On the other hand, 7.48 g of ethanethiol and 5.84 g of propylene oxide were dissolved in 60 ml of anhydrous methylene chloride, and the resulting solution was cooled to -40° C. Into this solution was introduced the above-mentioned reaction mixture. Then, the temperature of the reaction mixture was raised up to room temperature over a period of 1 hour, and the mixture was further subjected to reaction at the same temperature for 1 hour. The reaction mixture was introduced into 100 ml of water at 5° C., and the pH was adjusted to 6.0 with sodium hydrogencarbonate. The organic layer was separated, washed with 30 ml of saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure and the residue obtained was distilled under reduced pressure to obtain 11.8 g (yield, 58.0%) of 4-bromo-3-oxothiobutyric acid-S-ethyl ester having a boiling point of 110°-120° C./4 mmHg.

reactant | diketene | 8.4 g | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 14.4 g | BrBr | Br2
reactant | ethanethiol | 7.48 g | C(C)S | C2H6S
reactant | propylene oxide | 5.84 g | C1C(C)O1 | C3H6O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 4-bromo-3-oxothiobutyric acid-S-ethyl ester | 11.8 g, 58.0% | C(C)SC(CC(CBr)=O)=O | C6H9BrO2S
